US05688487
D. 3,3,9,9-Tetramethyl-1-[2-hydroxy-3-(2-nitro-1H-imidazol-1-yl)propoxy]-4,8-diazaundecane-2,10-dione dioxime
A slurry of 3-chloro-1-[2-hydroxy-3-(2-nitro-1H-imidazol-1-yl)propoxy]-3-methyl-2-nitrosobutane (3.2 g, 0.01 mol) in acetonitrile (35 mL) was maintained at 40° C. for 30 minutes. To this slurry was added a solution of N-(3-aminopropyl)-1-amino-1,1-dimethyl-2-butanoneoxime (1.73 g, 0.01 mol) in acetonitrile (10 mL) and diisopropylethylamine (1.5 g, 0.012 mol) and the mixture was maintained at 40° C. for 48 hrs. The solid which formed was filtered and the acetonitrile solution was evaporated on a rotary evaporator to give a green viscous oil which was dried under vacuum. The foamy solid obtained was triturated with acetonitrile to afford a thick oil which solidified on standing. This was purified by column chromatography (CH2Cl2 :CH3OH, 7:3, 50:50)). The fractions containing the product were collected and evaporated to give an oil which was dried under vacuum and triturated with acetonitrile to give a white solid. It was recrystallized from ethyl acetate to yield the title product. Yield: 1.2 g (26%). mp: 134°-35° C. MS: (M+H)+=458+. 1H NMR (DMSO) δ 1.05 and 1.16 [s, 12H, C(CH3)2 ], 1.38 (m, 2H, NHCH2CH2CH2NH), 1.72 (s, 3H, CH3), 2.2 (m, 2H, NHCH2CH2CH2NH), 3.38 (m, 4H, CH2OCH2CHOH), 3.8 (m, 2H, OCH2CHOH), 4.28 and 4.6 (m, 3H, CHOHCH2N<), 7.12 and 7.58 (s, 2H, imi H), 10.4 and 10.85 (s, 2H, NOH). Anal. Calcd for C19H35N7O6 : C, 49.88; H, 7.71; N, 21.43. Found: C, 49.80; H, 7.79; N, 21.47.

reactant | 3-chloro-1-[2-hydroxy-3-(2-nitro-1H-imidazol-1-yl)propoxy]-3-methyl-2-nitrosobutane | 0.01 mol, 3.2 g | ClC(C(COCC(CN1C(=NC=C1)[N+](=O)[O-])O)N=O)(C)C | C11H17ClN4O5
reactant | N-(3-aminopropyl)-1-amino-1,1-dimethyl-2-butanoneoxime | 0.01 mol, 1.73 g | NCCCNC(C(CC)=NO)(C)C | C9H21N3O
reactant | diisopropylethylamine | 0.012 mol, 1.5 g | C(C)(C)N(CC)C(C)C | C8H19N
solvent | acetonitrile | 35 mL | C(C)#N | C2H3N
solvent | acetonitrile | 10 mL | C(C)#N | C2H3N
product | 3,3,9,9-Tetramethyl-1-[2-hydroxy-3-(2-nitro-1H-imidazol-1-yl)propoxy]-4,8-diazaundecane-2,10-dione dioxime | CC(C(COCC(CN1C(=NC=C1)[N+](=O)[O-])O)=NO)(NCCCNC(C(C)=NO)(C)C)C | C19H35N7O6
